US08492559B2
Stage I: Ethyl 2-(7-cyano-1H-indol-1-yl)acetate
A solution of 1H-indole-7-carbonitrile (2.0 g, 14.08 mmol, 1.0 equiv.) in dry DMF (10 ml) was added at 0° C. to a suspension of NaH (0.845 g, 21.12 mmol, 1.5 equiv. 60% in mineral oil) in DMF (10 ml), and the mixture was stirred for 30 min. Ethyl bromoacetate (1.9 ml, 16.9 mmol, 1.2 equiv.) was added at 0° C., and stirring was carried out for 1 h at RT. When the reaction was complete (TLC monitoring), the mixture was cooled and diluted with water (60 ml). Extraction with ethyl acetate (3×80 ml) was carried out, and the combined organic phases were washed with sat. NaCl solution (2×100 ml), dried over Na2SO4 and concentrated under vacuum. The crude product was purified by column chromatography (silica gel, 8-10% ethyl acetate/hexane) and the desired product was isolated in the form of a yellow solid. Yield: 80% (2.6 g, 11.37 mmol)

reactant | 1H-indole-7-carbonitrile | 14.08 mmol, 2.0 g, 1.0 equiv. | N1C=CC2=CC=CC(=C12)C#N | C9H6N2
reactant | NaH | 21.12 mmol, 0.845 g, 1.5 equiv | [H-].[Na+]
reactant | Ethyl bromoacetate | 16.9 mmol, 1.9 ml, 1.2 equiv. | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 60 ml | O | H2O
product | Ethyl 2-(7-cyano-1H-indol-1-yl)acetate | Yield: 80% | C(#N)C=1C=CC=C2C=CN(C12)CC(=O)OCC | C13H12N2O2
